US07247625B2
6-[(3-acetyl-4-fluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 3-acetyl-4-fluorophenylboronic acid according to the coupling procedure described in example 1. MS (ESI) m/z 371 ([M+H]+); MS (ESI) m/z 369 ([M−H]−); High Resolution Mass Spectrometry (HRMS): calcd for C21H23FN2O3, 370.1693; found (ESI+), 371.17619; Anal. calcd for C21H23FN2O3: C, 68.09; H, 6.26; N, 7.56. Found: C, 67.36; H, 6.45; N, 7.65.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 3-acetyl-4-fluorophenylboronic acid | C(C)(=O)C=1C=C(C=CC1F)B(O)O | C8H8BFO3
product | 6-[(3-acetyl-4-fluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | C(C)(=O)C=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C21H23FN2O3
